US07772244B2
(R)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-1-one
To a solution of the (R)-2-hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid (610 mg, 1.74 mmol), diisopropylethylamine (0.61 mL, 3.48 mmol), and 4-piperidinopiperidine (585.76 mg, 2.0 equiv) in dimethylformamide (20 mL) and dichloromethane (20 mL) at 0° C. was added PyBOP® (951 mg, 1.83 mmol). The reaction was stirred at 0° C. for 2 h. The reaction was concentrated, diluted with ethyl acetate, washed with water, then brine, dried over magnesium sulfate, and concentrated. The product was purified by column chromatography (4:96:1 methanol/dichloromethane/triethylamine) to give 795 mg (91%). Mass spec.: 501.40 (MH)+.

reactant | (R)-2-hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)propanoic acid | 1.74 mmol, 610 mg | O[C@@H](C(=O)O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C17H26N2O4Si
reactant | diisopropylethylamine | 3.48 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-piperidinopiperidine | 585.76 mg, 2.0 equiv | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-2-Hydroxy-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(piperidin-1-yl)piperidin-1-yl)propan-1-one | O[C@@H](C(=O)N1CCC(CC1)N1CCCCC1)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C27H44N4O3Si
